2187-09-27 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2187-9-26**] 09:29 AM
 PAN CULTURE - At [**2187-9-26**] 09:29 AM
 ULTRASOUND - At [**2187-9-26**] 10:58 AM
   abd
 CORDIS/INTRODUCER - STOP [**2187-9-26**] 11:47 AM
 MULTI LUMEN - START [**2187-9-26**] 11:53 AM
 EKG - At [**2187-9-26**] 02:15 PM
 ARTERIAL LINE - START [**2187-9-26**] 03:30 PM
 ARTERIAL LINE - STOP [**2187-9-26**] 05:00 PM
 SPUTUM CULTURE - At [**2187-9-26**] 05:15 [**Hospital 1355**]
   Transfered from TICU, L IJ placed before transfer.  Post-placement XR
   showed catheter tip against far right edge of SVC, catheter was
   withdrawn 2 cm.
   Code status discussed with family, decided full code.  Also, the
   patient's two sons deny that he has been drinking at all for the past
   year.  They do not live with him and they report that he tends to hide
   his medical problems, but they insist that he has not been drinking
   over the past year.
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Family / [**Hospital 75**] Medical [**Name2 (NI) 9672**] Known Drug
   Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-26**] 08:00 PM
   Ciprofloxacin - [**2187-9-26**] 10:04 PM
   Piperacillin - [**2187-9-27**] 06:08 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2187-9-26**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-27**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 78 (73 - 127) bpm
   BP: 124/49(68) {86/34(54) - 141/60(83)} mmHg
   RR: 22 (19 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 17 (12 - 17)mmHg
   Total In:
                                                                  8,813 mL
                                                                  1,992 mL
   PO:
   TF:
   IVF:
                                                                  7,198 mL
                                                                    312 mL
   Blood products:
                                                                  1,615 mL
                                                                  1,680 mL
   Total out:
                                                                  1,935 mL
                                                                    475 mL
   Urine:
                                                                  1,935 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,878 mL
                                                                  1,517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 466 (466 - 466) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 99%
   ABG: 7.46/38/109/25/2
   Ve: 12.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   8.9 g/dL
   113 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   51 mg/dL
   106 mEq/L
   141 mEq/L
   25.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2187-9-26**]  04:45 AM
                             [**2187-9-26**]  05:29 AM
                             [**2187-9-26**]  05:47 AM
                             [**2187-9-26**]  08:29 AM
                             [**2187-9-26**]  08:58 AM
                             [**2187-9-26**]  01:47 PM
                             [**2187-9-26**]  02:01 PM
                             [**2187-9-26**]  11:00 PM
                             [**2187-9-27**]  05:13 AM
                             [**2187-9-27**]  05:45 AM
   WBC
   28.9
   26.2
   20.3
   9.4
   7.8
   Hct
   28.7
   27.2
   25.1
   22.1
   25.1
   Plt
   87
   80
   73
   41
   45
   Cr
   1.9
   1.9
   1.8
   1.6
   TropT
   0.07
   TCO2
   22
   25
   25
   25
   28
   Glucose
   143
   181
   169
   149
   113
   Other labs: PT / PTT / INR:18.2/46.3/1.6, CK / CKMB /
   Troponin-T:411/7/0.07, ALT / AST:61/95, Alk Phos / T Bili:47/10.3,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:268 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Mr. [**Known lastname 9234**] is a 73 year old gentleman with a PMH significant for MELD
   21 EtOH cirrhosis complicated by encephalopathy and varices, EtOH
   abuse, HTN, and recent MVA admitted for hematemesis now transferred to
   the MICU for hypotension, ARF, and leukocytosis.
   .
   # Hypotension: Differential at this time includes SIRS/sepsis in
   setting of leukocytosis and vasopressor requirement, ESLD with
   signifcant peripheral/splachnic vasodilation, and hypovolemia either
   from bleeding or third-spacing in setting of recent MVA.  Cardiogenic
   shock unlikely given TTE performed today with preserved LVEF.
   Potential sources of infection include aspiration pneumonia vs.
   pneumonitis or SBP.  Lactate rising trending down from 5.7 to 4.4,
   although levels difficult to interpret in setting of liver disease.  UA
   negative, CXR with small LLL consildation in setting of hematemesis
   likely representing aspiration.
   - Monitor hemodynamics, maintain MAP>65, UOP>30 cc/hr, CVP>12,
   ScVO2>70. Trend lactate.
   - IVF bolus, colloid/blood products, and norepinephrine as necessary to
   maintain hemodynamic goals
   - Vancomycin, pip/tazo, and cipro given unclear source of infection.
   - Pan-culture including BCx x2, sputum culture. Will ultrasound abdomen
   and perform diagnostic paracentesis if possible.
   - Trend hct Q8H, transfuse to maintain hct<21, active hemorrhage, or
   end organ perfusion.
   - Active T+S, crossmatch for 2units PRBC.
   - Switch sedation from propafol to fent/midaz
   .
   # Leukocytosis: Concerning for infectious process with potential
   sources including SBP or aspiration pneumonia versus chemical
   pneumonitis.  Alternatively, this may be reactive in setting of
   variceal bleed.
   - Trend fever curve and WBC.
   - Empiric antimicrobials as above with pan-culture.
   .
   # Respiratory: Patient intubated for airway protection at OSH.
   - Continue volume-cycled assist control with adjustments based on ABG.
   - Can consider extubation when patient stabilizes hemodyanmically.
   .
   # Hematemesis/anemia: Likely variceal bleed given EGD with grade 3
   varices now s/p banding.
   - Trend hct Q6H, transfuse as above. If patient rebleeds, will correct
   coagulopathy with goal INR<1.5.
   - Continue PPI IV BID per liver
   - Pip/tazo for SBP prophylaxis
   - Follow-up liver recs if any
   .
   # Liver disease: Patient with MELD 21 EtOH cirrhosis complicated by
   varices and encephalopathy. Transaminases mildly elevated, although
   elevated INR and low albumin suggest decreased synthetic function.
   Patient also has worsening hyperbilirubinemia in acute setting.
   - Lactulose PR until able to place OGT. Will start rifaxamin when OGT
   in place.
   - Abdominal u/s with dopplers
   - Follow-up liver recs
   - Follow-up viral hepatitis serologies
   - Hold on OGT x4 days per liver given esophageal banding.
   - Pip/tazo for SBP prophylaxis.
   - Trend LFTs
   .
   # Acute renal failure: Unclear baseline creatinine, although creatinine
   at OSH on [**9-8**] was 1.1 ([**1-8**] 0.9) suggesting acute renal failure.
   Differential includes pre-renal azotemia, ATN in setting of
   hypotension, and HRS.  Creatinine has trended down from peak of 2.5 on
   admission to 1.9 today.
   - Check urine lytes, sediment, and eos
   - Monitor UOP with goal UOP>30 cc/hr
   - Midodrine, octreotide, and albumin for possible HRS
   - Trend creatinine and electrolytes.
   .
   # EtOH: Currently on midazolam for sedation. Will plan on adding ativan
   per CIWA scale when extubated.
   - Thiamine, folate, and MVI.
   .
   # Thrombocytopenia: Likely secondary to sequestration in setting of
   liver disease and portal hypertension.  Platelets on [**9-8**] 71, [**1-8**] 52
   - Trend platelets.
   .
   # CV: Patient with ECG on admission without acute ST-T wave changes
   suggestive of ischemia. Cardiac biomarkers during admission with
   elevated CK in 400s with flat MB (CK 578 on [**1-8**]) but with rising TnT
   0.08->0.19 suggesting demand ischemia and/or impaired clearance in
   setting of ARF.
   - Trend TnT, repeat ECG.
   .
   FEN: NPO, replete as necessary
   PPx: SCDs, PPI
   Access: LIJ CVL, femoral arterial line - resite to radial arterial
   line.
   Code: Presumed full (will need to contact family).
   Contact: [**Name (NI) 209**] (son) [**Telephone/Fax (1) 9657**]
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-9-25**] 04:30 PM
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2187-09-27 09:36:00 Physician Attending Progress Note
Chief Complaint: variceal bleed, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2187-9-26**] 09:29 AM
 PAN CULTURE - At [**2187-9-26**] 09:29 AM
 ULTRASOUND - At [**2187-9-26**] 10:58 AM
   abd
 CORDIS/INTRODUCER - STOP [**2187-9-26**] 11:47 AM
 MULTI LUMEN - START [**2187-9-26**] 11:53 AM
 EKG - At [**2187-9-26**] 02:15 PM
 ARTERIAL LINE - START [**2187-9-26**] 03:30 PM
 ARTERIAL LINE - STOP [**2187-9-26**] 05:00 PM
 SPUTUM CULTURE - At [**2187-9-26**] 05:15 PM
   Requiring more blood over night- 6 units. hemodynamics remained stable
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-26**] 08:00 PM
   Ciprofloxacin - [**2187-9-26**] 10:04 PM
   Piperacillin - [**2187-9-27**] 06:08 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2187-9-26**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-27**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 77 (73 - 97) bpm
   BP: 122/47(66) {86/34(54) - 141/60(81)} mmHg
   RR: 19 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 17 (12 - 17)mmHg
   Total In:
                                                                  8,813 mL
                                                                  2,823 mL
   PO:
   TF:
   IVF:
                                                                  7,198 mL
                                                                    443 mL
   Blood products:
                                                                  1,615 mL
                                                                  2,380 mL
   Total out:
                                                                  1,935 mL
                                                                    675 mL
   Urine:
                                                                  1,935 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,878 mL
                                                                  2,148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 98%
   ABG: 7.46/38/109/25/2
   Ve: 10.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils 2 mm and reactive, scleral edema
   CV: RR
   Chest: decreased BS left base, no wheezes
   Abd: obese with more tense ascites hypoactive BS eccymoses over RUQ
   stable
   Ext: 4+ LE edema
   Neuro: sedated, spont movement o tactile stim
   Labs / Radiology
   8.9 g/dL
   45 K/uL
   113 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   51 mg/dL
   106 mEq/L
   141 mEq/L
   25.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2187-9-26**]  04:45 AM
                             [**2187-9-26**]  05:29 AM
                             [**2187-9-26**]  05:47 AM
                             [**2187-9-26**]  08:29 AM
                             [**2187-9-26**]  08:58 AM
                             [**2187-9-26**]  01:47 PM
                             [**2187-9-26**]  02:01 PM
                             [**2187-9-26**]  11:00 PM
                             [**2187-9-27**]  05:13 AM
                             [**2187-9-27**]  05:45 AM
   WBC
   28.9
   26.2
   20.3
   9.4
   7.8
   Hct
   28.7
   27.2
   25.1
   22.1
   25.1
   Plt
   87
   80
   73
   41
   45
   Cr
   1.9
   1.9
   1.8
   1.6
   TropT
   0.07
   0.05
   TCO2
   22
   25
   25
   25
   28
   Glucose
   143
   181
   169
   149
   113
   Other labs: PT / PTT / INR:17.8/40.3/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:61/95, Alk Phos / T Bili:47/10.3,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Albumin:2.5 g/dL, LDH:268 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   73 yr old man with alcoholic cirrosis now presents with UGIB and shock
   concerning for evolving sepsis
   1.       Shock: DDX was initially hemmorhagic but then concern raised
   for evolving sepsis is likely given worsening hypotension with rising
   WBC and stable HCT in face of  aggressive
   resuscitation
   For Sepsis: sourced would be PNA, peritonitis
 not enough to tap
   yesterday based on imaging, Vanco Zosyn CIpro empiric and pan culture
   repeat US today and may be able to get a para- chek Abd pressures.
   Keep CVP 8-12, SCVO2 was in good range in 80
   Has come off pressors and maintaiing MAPS
   2.       Anemia: Received 6 U PRBC since last PM and HCT only 25- even
   if some was dilutional given massive resuscitation it is still
   concerning for active ongoing blood loss. Sources could be oozing
   variceas or ulcer
 less likely but consider delayed post traumatic
   injury.
   GI bleed: s/p banding, , maintain access and serial HCT, keep inr less
   than 1.5 Cipro prophylaxis Talk with GI about role for rescope.
                  Check hemolysis labs
                  Consider repeat imaging US versus CT and discuss with
   Trauma team
   3.       Resp Failure: in setting of shock, currently requiring full
   vent support AC- can back off on rate as needed
   4.       ARF: could be pre renal shock, less likely heptorenal given
   trending down with resuscitation. Midorine/Octreotide.
   5.       Cirrhosis: Hepatology following MELD 21 etoh
 trend LFTs
   lactulose,
   6.       ETOH: MVI thiamine folate getting benzos now for sedation-
   will watch
   7.       Trop leak with relative high [**Name (NI) 9658**] renal failure and likely
   demand
 will trend and watch serial ECGs
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-9-25**] 04:30 PM
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with sons last evening
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2187-09-28 07:46:00 Physician Resident Progress Note
Chief Complaint: 73M with a PMH significant for MELD 21 EtOH cirrhosis
   complicated by encephalopathy and varices, EtOH abuse, HTN, and recent
   MVA admitted for hematemesis now transferred to the MICU for
   hypotension, ARF, and leukocytosis.
   24 Hour Events:
   - BP trended down to 88/40 with decrease in UOP, started levophed, gave
   50g albumin
   - Hct, INR stable overnight
   - Bladder pressure stable 21, 18, 19
   - Liver not planning on scoping until signs of active bleeding
   - d/c'ed femoral triple lumen
 MULTI LUMEN - STOP [**2187-9-27**] 03:10 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-27**] 08:12 PM
   Ciprofloxacin - [**2187-9-27**] 10:05 PM
   Piperacillin - [**2187-9-28**] 06:23 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Octreotide - 50 mcg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-28**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 66 (61 - 86) bpm
   BP: 101/44(59) {90/38(52) - 139/69(82)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 23 (14 - 24)mmHg
   Bladder pressure: 19 (18 - 23) mmHg
   Total In:
                                                                  4,773 mL
                                                                    195 mL
   PO:
   TF:
   IVF:
                                                                  1,927 mL
                                                                    195 mL
   Blood products:
                                                                  2,846 mL
   Total out:
                                                                  1,375 mL
                                                                    330 mL
   Urine:
                                                                  1,375 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,398 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 297 (297 - 297) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.41/42/99.[**Numeric Identifier 508**]/25/1
   Ve: 8.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: tense, Non-tender, Distended, Obese
   Neurologic: Sedated, non responsive to verbal or painful stimuli
   Labs / Radiology
   40 K/uL
   10.4 g/dL
   110 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   52 mg/dL
   107 mEq/L
   142 mEq/L
   30.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2187-9-26**]  11:00 PM
                             [**2187-9-27**]  05:13 AM
                             [**2187-9-27**]  05:45 AM
                             [**2187-9-27**]  11:54 AM
                             [**2187-9-27**]  05:34 PM
                             [**2187-9-27**]  05:44 PM
                             [**2187-9-27**]  11:45 PM
                             [**2187-9-28**]  02:03 AM
                             [**2187-9-28**]  05:35 AM
                             [**2187-9-28**]  05:44 AM
   WBC
   9.4
   7.8
   6.8
   6.9
   7.3
   6.9
   Hct
   22.1
   25.1
   28.2
   28.8
   29.7
   30.0
   Plt
   41
   45
   36
   44
   37
   40
   Cr
   1.6
   1.5
   1.5
   TropT
   0.05
   TCO2
   28
   26
   28
   Glucose
   113
   119
   110
   Other labs: PT / PTT / INR:17.6/39.1/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:53/70, Alk Phos / T Bili:50/11.8,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5
   g/dL, LDH:193 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: No new imaging
   Microbiology: Blood pending
   Urine negative
   Assessment and Plan
   73M with a PMH significant for MELD 21 EtOH cirrhosis complicated by
   encephalopathy and varices, EtOH abuse, HTN, and recent MVA admitted
   for hematemesis now transferred to the MICU for hypotension, ARF, and
   leukocytosis.
   .
   # Respiratory: Patient intubated for airway protection at OSH.
   Ventilating and oxygenating well. Pos cough and gag
   -Wean sedation
   -PS today, SBT if tolerates
   -Possible extubation if gag/cough, mental status appropriate
   -Ptop tube feeds prior
   .
   # Hematemesis/anemia: unknown etiology, differential includes GIB,
   extraluminal, retroperitoneal. [**Month (only) 51**] have variceal bleed given EGD with
   grade 3 varices now s/p banding. Hct has been stable over last day.
   Liver has no plan to scope until signs of acute bleeding.
   -Hct q12h, transfuse > 21 or for signs of active bleeding
   -Follow platelets
   -Cont PPI IV BID per liver
   -Cont Pip/tazo, cipro for empiric treatment of SBP
   -Follow-up liver recs
 stop octreotide?
   .
   # Hypotension: requiring levophed, likely distributive shock (liver vs
   SIRS/sepsis) vs hypovolemia. Bladder pressures stable, unlikely
   abdominal compartment syndrome. Pt has preserved EF. Souces of
   infection include aspiration pneumonia vs SBP. Lactate trending down.
   UA negative, CXR with small LLL consildation in setting of hematemesis
   likely representing aspiration. If must image abd surgery would prefer
   CT with contrast.
   -Continue pip/tazo, vanco, zosyn (day [**4-5**]) for SBP
   -MAP > 60, UOP > 30 or based on perfusion
   -f/u micro
   -per above
   -wean sedation as tolerated
   .
   # Leukocytosis: Concerning for infectious process with potential
   sources including SBP or aspiration pneumonia versus chemical
   pneumonitis.  Alternatively, this may be reactive in setting of
   variceal bleed. WBC stable.
   -Trend fever curve and WBC.
   -Per above, cont abx
   -Pan culture if febrile
   .
   # Cirrhosis: MELD 21, alcoholic cirrhosis c/b varices and
   encephalopathy. Transaminases elvated, INR elevated, decrease alubumin
   - likely decreased synthetic function. Worsening hyperbilirubin. Likely
   secondary to transfusions.
   -Lactulose PR
   -Rifaxamin
   -Follow up liver recs
   -Hold on OGT for 3 more days per liver due to s/p esophageal banding
   -Trend LFTs, INR
   .
   # ARF: creatinine improving
   -Monitor UOP, goal > 30cc/hr
   -Midodrine, octreotide, albumin
   -Trend lytes, BUN/Cr
   .
   # CV: Patient with ECG on admission without acute ST-T wave changes
   suggestive of ischemia. Cardiac biomarkers flat, will continue to
   monitor.
   .
   FEN: NPO, replete as necessary
   PPx: SCDs, PPI
   Access: LIJ CVL, A-line.
   Code: Full Code.
   Contact: [**Name (NI) 209**] (son) [**Telephone/Fax (1) 9657**]
   Dispo: ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2187-9-25**] 04:30 PM
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2187-09-28 09:50:00 Physician Attending Progress Note
Chief Complaint: shock, GI bleed, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2187-9-27**] 03:10 PM
   On and off Levophed during evening
   HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-27**] 08:12 PM
   Ciprofloxacin - [**2187-9-27**] 10:05 PM
   Piperacillin - [**2187-9-28**] 06:23 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-28**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 63 (61 - 74) bpm
   BP: 109/50(66) {90/38(52) - 138/69(82)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.3 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 23 (14 - 24)mmHg
   Bladder pressure: 19 (18 - 23) mmHg
   Total In:
                                                                  4,773 mL
                                                                    415 mL
   PO:
   TF:
   IVF:
                                                                  1,927 mL
                                                                    415 mL
   Blood products:
                                                                  2,846 mL
   Total out:
                                                                  1,375 mL
                                                                    390 mL
   Urine:
                                                                  1,375 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,398 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (297 - 490) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 20 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 218**]/25/2
   Ve: 6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils 2 mm and reactive, scleral edema
   CV: RR
   Chest: bronchial BS on left
   Abd: obese with more tense ascites hypoactive BS ecchymoses over RUQ
   stable
   Ext: 4+ LE edema
   Neuro: sedated, min spont movement
   Labs / Radiology
   9.9 g/dL
   37 K/uL
   110 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   52 mg/dL
   107 mEq/L
   142 mEq/L
   29.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2187-9-27**]  05:45 AM
                             [**2187-9-27**]  11:54 AM
                             [**2187-9-27**]  05:34 PM
                             [**2187-9-27**]  05:44 PM
                             [**2187-9-27**]  11:45 PM
                             [**2187-9-28**]  02:03 AM
                             [**2187-9-28**]  05:35 AM
                             [**2187-9-28**]  05:44 AM
                             [**2187-9-28**]  08:50 AM
                             [**2187-9-28**]  09:00 AM
   WBC
   6.8
   6.9
   7.3
   6.9
   5.9
   Hct
   28.2
   28.8
   29.7
   30.0
   29.6
   Plt
   36
   44
   37
   40
   37
   Cr
   1.5
   1.5
   TCO2
   28
   26
   28
   29
   Glucose
   119
   110
   Other labs: PT / PTT / INR:18.1/40.7/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:53/70, Alk Phos / T Bili:50/11.8,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5
   g/dL, LDH:193 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   73 yr old man with alcoholic cirrosis now presents with UGIB and shock
   concerning for evolving sepsis
   1.       Shock: DDX was initially hemmorhagic but then concern raised
   for evolving sepsis is likely given worsening hypotension with rising
   WBC and stable HCT in face of aggressive
   resuscitation
           For Sepsis: sourced would be PNA, peritonitis
 not enough to
   tap yesterday based on imaging, Vanco Zosyn Cipro
           Empiric x48 hrs but we have found nothing so [**Doctor Last Name **] down to Cipro
   for SBP prophylaxis.
   Has come off pressors and maintaining MAPS
   2. Anemia: GI bleed: s/p banding, maintain access and serial HCT, keep
   inr less than 1.5 Cipro prophylaxis
   2.       Resp Failure: in setting of shock, able to wean to PSV
 watch
   ABGs but looks good major barrier is mental status and we will wean
   sedation.
   3.       ARF: could be pre renal shock, less likely heptorenal given
   trending down with resuscitation. Midorine/Octreotide.
   4.       Cirrhosis: Hepatology following MELD 21 etoh
 trend LFTs
   lactulose,
   5.       ETOH: MVI thiamine folate getting benzos now for sedation-
   will watch with wean for s/sx withdrawl
   6.       Trop leak with relative high [**Name (NI) 9658**] renal failure and likely
   demand
 will trend and watch serial ECGs
   ICU Care
   Nutrition: NPO until extubated or would have to start PPN
   Glycemic Control:  insulin
   Lines:
   18 Gauge - [**2187-9-25**] 04:30 PM
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  sons [**Name (NI) 209**] and [**First Name4 (NamePattern1) 20**]
   [**Last Name (NamePattern1) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45

2187-09-29 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT stable, continues to have low platelets
   Passed SBT, but with significantly depressed mental status still.
   Afebrile, off pressors.
   Switched to PS, ABG
s looked good.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-27**] 08:12 PM
   Piperacillin - [**2187-9-28**] 06:23 AM
   Ciprofloxacin - [**2187-9-28**] 10:18 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-28**] 08:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 78 (59 - 78) bpm
   BP: 139/61(86) {92/42(56) - 143/63(86)} mmHg
   RR: 31 (4 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.6 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 20 (20 - 24)mmHg
   Total In:
                                                                  1,895 mL
                                                                    158 mL
   PO:
   TF:
   IVF:
                                                                  1,895 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                  1,160 mL
   Urine:
                                                                  1,120 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                 -1,002 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (343 - 500) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.40/43/95.[**Numeric Identifier 143**]/26/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   36 K/uL
   10.4 g/dL
   113 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   44 mg/dL
   107 mEq/L
   140 mEq/L
   31.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2187-9-27**]  05:44 PM
                             [**2187-9-27**]  11:45 PM
                             [**2187-9-28**]  02:03 AM
                             [**2187-9-28**]  05:35 AM
                             [**2187-9-28**]  05:44 AM
                             [**2187-9-28**]  08:50 AM
                             [**2187-9-28**]  09:00 AM
                             [**2187-9-28**]  05:44 PM
                             [**2187-9-28**]  05:54 PM
                             [**2187-9-29**]  02:15 AM
   WBC
   7.3
   6.9
   5.9
   5.7
   Hct
   29.7
   30.0
   29.6
   29.3
   31.7
   Plt
   37
   40
   37
   36
   Cr
   1.5
   1.5
   1.3
   TCO2
   26
   28
   29
   28
   Glucose
   119
   110
   113
   Other labs: PT / PTT / INR:17.9/40.4/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:41/55, Alk Phos / T Bili:53/7.6,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5
   g/dL, LDH:183 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   73M with a PMH significant for MELD 21 EtOH cirrhosis complicated by
   encephalopathy and varices, EtOH abuse, HTN, and recent MVA admitted
   for hematemesis now transferred to the MICU for hypotension, ARF, and
   leukocytosis.
   .
   # Respiratory: Patient intubated for airway protection at OSH.
   Ventilating and oxygenating well. Pos cough and gag
   -Continue to wean sedation, plan to extubate when mental status allows.
   -Now on pressure support, [**6-5**], no problems.
   .
   # Hematemesis/anemia: unknown etiology, differential includes GIB,
   extraluminal, retroperitoneal. [**Month (only) 51**] have variceal bleed given EGD with
   grade 3 varices now s/p banding. Hct has been stable over last day.
   Liver has no plan to scope until signs of acute bleeding.
   -Hct q12h, transfuse > 21 or for signs of active bleeding
   -Follow platelets daily
   -Cont PPI IV BID per liver
   - Cipro for SBP, d/c vanc and zosyn
   -Follow-up liver recs
 stop octreotide?  Still on octreotide.
   .
   # Hypotension: off levophed <24 hours. Creatinine improving. Pt has
   preserved EF. Souces of infection include aspiration pneumonia vs SBP.
   Lactate trending down. UA negative, CXR with small LLL consildation in
   setting of hematemesis likely representing aspiration. If must image
   abd surgery would prefer CT with contrast.
   -Cipro prophylaxis
   -SBP > 90, UOP > 30 or based on perfusion
   -f/u micro
   -per above
   -wean sedation as tolerated
   .
   # Leukocytosis: Initially concerning for infectious process with
   potential sources including SBP or aspiration pneumonia versus chemical
   pneumonitis.  Also may have been reactive in setting of variceal bleed.
    WBC now stable, normal x 48 hours.  Vanco and Zosyn now dc-ed, on
   cipro for SBP prophylaxis.
   -Trend fever curve and WBC.
   -Pan culture if febrile
   .
   # Cirrhosis: MELD 21, alcoholic cirrhosis c/b varices and
   encephalopathy. Transaminases elvated, INR elevated, decrease alubumin
   - likely decreased synthetic function. Worsening hyperbilirubin. Likely
   secondary to transfusions.
   -Lactulose PR
   -Follow up liver recs
   -Hold on OGT for 1 more day per liver due to s/p esophageal banding
   -Trend LFTs, INR
   .
   # ARF: creatinine improving
   -Monitor UOP, goal > 30cc/hr
   -octreotide, albumin (discuss with liver)
   -Trend lytes, BUN/Cr
   .
   # CV: Patient with ECG on admission without acute ST-T wave changes
   suggestive of ischemia. Cardiac biomarkers flat. Will no longer follow
   biomarkers unless clinically indicated.
   .
   FEN: NPO, replete as necessary
   PPx: SCDs, PPI
   Access: LIJ CVL, A-line.
   Code: Full Code.
   Contact: [**Name (NI) 209**] (son) [**Telephone/Fax (1) 9657**]
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-9-25**] 04:30 PM
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-09-29 11:11:00 Physician Attending Progress Note
Chief Complaint: respiratory faiulre
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo man with ETOH cirrhosis.  Admitted to [**Hospital3 **] on [**9-26**] with
   massive hematemesis.  Had MVA week prior.  Intubated there.  Tranferred
   here - EGD with Grade III varices which were banded.  Was initially in
   SICU for 12 hours, then transferred here for ARF, leukocytosis, and
   HOTN.  Got 6U PRBCs on 1st day.  And has stabiliized since.  Has been
   on PSV 5/5 and looking good.  Yeast in sputum cx.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-27**] 08:12 PM
   Piperacillin - [**2187-9-28**] 06:23 AM
   Ciprofloxacin - [**2187-9-29**] 10:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-29**] 08:00 AM
   Other medications:
   chlorhexidine
   cipro
   SSI
   MVI
   folate
   lactulose
   enema
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-29**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 66 (59 - 78) bpm
   BP: 103/43(61) {92/42(56) - 144/63(86)} mmHg
   RR: 21 (4 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.6 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 20 (20 - 24)mmHg
   Total In:
                                                                  1,895 mL
                                                                    799 mL
   PO:
   TF:
   IVF:
                                                                  1,895 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                  1,550 mL
   Urine:
                                                                  1,120 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                   -751 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 505 (343 - 505) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.40/43/95.[**Numeric Identifier 143**]/26/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   36 K/uL
   113 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   44 mg/dL
   107 mEq/L
   140 mEq/L
   31.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2187-9-27**]  05:44 PM
                             [**2187-9-27**]  11:45 PM
                             [**2187-9-28**]  02:03 AM
                             [**2187-9-28**]  05:35 AM
                             [**2187-9-28**]  05:44 AM
                             [**2187-9-28**]  08:50 AM
                             [**2187-9-28**]  09:00 AM
                             [**2187-9-28**]  05:44 PM
                             [**2187-9-28**]  05:54 PM
                             [**2187-9-29**]  02:15 AM
   WBC
   7.3
   6.9
   5.9
   5.7
   Hct
   29.7
   30.0
   29.6
   29.3
   31.7
   Plt
   37
   40
   37
   36
   Cr
   1.5
   1.5
   1.3
   TCO2
   26
   28
   29
   28
   Glucose
   119
   110
   113
   Other labs: PT / PTT / INR:17.9/40.4/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:41/55, Alk Phos / T Bili:53/7.6,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5
   g/dL, LDH:183 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Respiratory failure:  Breathing well, but limited by poor MS.  [**Name13 (STitle) 133**]
   start lactulose through NGT.  continue PSV 5/5
   Fluid overload:  Is 15L positive since admission so will diurese.
   Poor MS:  likely due to encephalopathy, but was HOTNsive for some time
   in ED so brain injury from anoxia is concern.  Will hold off on CT as
   we won't do
   much with information and just start lactulose.  If still not waking
   up, can consider CT.
   Cirrhosis:  Start lactulose PNGT.
   leukocytosis:  resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-9-25**] 04:30 PM
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-09-30 07:46:00 Physician Resident Progress Note
Chief Complaint: 73M with a PMH significant for MELD 21 EtOH cirrhosis
   complicated by encephalopathy and varices, EtOH abuse, HTN, and recent
   MVA admitted for hematemesis, transferred to the MICU for hypotension,
   ARF, and leukocytosis.  Now off pressors, HCT stable, leukocytosis
   resolved.  Stable on [**6-5**] pressure support, but depressed mental status
   preventing extubation yesterday.
   24 Hour Events:
   - Copious secretions this overnight, RSBI 108
   - MS improved this AM
   - OG tube placed by hepatology, started PO lactulose
   - octreotide d/c'ed
   - Hct and plts stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-27**] 08:12 PM
   Piperacillin - [**2187-9-28**] 06:23 AM
   Ciprofloxacin - [**2187-9-29**] 10:32 PM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-9-29**] 08:23 PM
   Furosemide (Lasix) - [**2187-9-29**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-30**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 86 (65 - 128) bpm
   BP: 125/58(80) {97/43(61) - 177/91(122)} mmHg
   RR: 36 (0 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.6 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 16 (7 - 16)mmHg
   Total In:
                                                                  2,002 mL
                                                                    202 mL
   PO:
   TF:
   IVF:
                                                                  1,842 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                  1,025 mL
   Urine:
                                                                  2,425 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,023 mL
                                                                   -823 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (391 - 505) mL
   PS : 5 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 12 cmH2O
   SpO2: 93%
   ABG: 7.40/43/184/25/1
   Ve: 18.7 L/min
   PaO2 / FiO2: 460
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   11.0 g/dL
   133 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.5 mEq/L
   35 mg/dL
   109 mEq/L
   145 mEq/L
   32.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2187-9-28**]  05:35 AM
                             [**2187-9-28**]  05:44 AM
                             [**2187-9-28**]  08:50 AM
                             [**2187-9-28**]  09:00 AM
                             [**2187-9-28**]  05:44 PM
                             [**2187-9-28**]  05:54 PM
                             [**2187-9-29**]  02:15 AM
                             [**2187-9-29**]  05:46 PM
                             [**2187-9-30**]  03:29 AM
                             [**2187-9-30**]  03:49 AM
   WBC
   6.9
   5.9
   5.7
   6.8
   6.8
   Hct
   30.0
   29.6
   29.3
   31.7
   33.6
   32.8
   Plt
   40
   37
   36
   35
   42
   Cr
   1.5
   1.3
   1.3
   TCO2
   28
   29
   28
   28
   Glucose
   110
   113
   133
   Other labs: PT / PTT / INR:17.9/36.9/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:39/56, Alk Phos / T Bili:61/5.5,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5
   g/dL, LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR [**9-29**] placement of a Dobbhoff tube extends to the distal
   stomach. The relationship of the tip of the endotracheal tube to the
   carina is very difficult to assess on this study. Prominence of
   pulmonary vessels is consistent with elevated pulmonary venous
   pressure, though respiratory motion makes this difficult to evaluate.
   Bilateral pleural effusions are seen.
   Microbiology: sputum - pending
   Assessment and Plan
   73M with a PMH significant for MELD 21 EtOH cirrhosis complicated by
   encephalopathy and varices, EtOH abuse, HTN, and recent MVA admitted
   for hematemesis, transferred to the MICU for hypotension, ARF, and
   leukocytosis.  Now off pressors, HCT stable, leukocytosis resolved.
   Stable on [**6-5**] pressure support, but depressed mental status preventing
   extubation yesterday.
   .
   # Respiratory: Patient intubated for airway protection at OSH.
   Ventilating and oxygenating well. Pos cough and gag. Off sedation,
   improved mental status this AM. RSBI 108 which is inappropriately
   elevated. Increased secretions for unknown reasons. Propofol started,
   can re-evaluate today. Gases adequate on minimal vent settings.
   - CXR this AM
   - f/u sputum culture results
   - Turn off sedation, re-evaluate throughout AM, consider extubating 3pm
   if clinical status stable
   - Lipase, LFT's due to use of propofol
   .
   # Hematemesis/anemia: unknown etiology, differential includes GIB,
   extraluminal, retroperitoneal. Likely variceal bleed, but now s/p
   banding.  Hct has been stable for the past 2 days. Liver has no plan to
   scope unless signs of acute bleeding.
   - Daily CBC
   - Cont PPI IV BID per liver
   - Cipro for SBP prophylaxis.
   - Follow-up liver recs
   .
   # Hypotension: off levophed, normotensive. Creatinine improving. Pt has
   preserved EF.
   - Maintain SBP > 90, UOP > 30 or based on perfusion
   - f/u micro results.
   - Cipro prophylaxis
   .
   # Leukocytosis: Initially concerning for infectious process with
   potential sources including SBP or aspiration pneumonia versus chemical
   pneumonitis.  Also may have been reactive in setting of variceal
   bleed.  WBC now stable, normal x 48 hours.  Vanco and Zosyn now dc-ed,
   on cipro for SBP prophylaxis.
   - Follow temperature and WBC.
   - Pan culture if febrile, tylenol under 2g/day
   - Per above
   .
   # Cirrhosis: MELD 21, alcoholic cirrhosis c/b varices and
   encephalopathy. Transaminases elvated, INR elevated, decrease alubumin
   - likely decreased synthetic function. Worsening hyperbilirubin. Likely
   secondary to transfusions.
   - Lactulose
   -Trend LFTs, INR
   - Appreciate liver recs
   .
   # ARF: creatinine improving.  Substantially fluid positive for LOS.
   - Monitor UOP, goal > 30cc/hr
   - begin diuresis to trend net fluid negative.
   -Trend lytes, BUN/Cr  in PM
   .
   # CV: Patient with ECG on admission without acute ST-T wave changes
   suggestive of ischemia. Cardiac biomarkers flat. Will no longer follow
   biomarkers unless clinically indicated.
   .
   FEN: NPO, replete as necessary
   PPx: SCDs, PPI
   Access: LIJ CVL, A-line.
   Code: Full Code.
   Contact: [**Name (NI) 209**] (son) [**Telephone/Fax (1) 9657**]
   Dispo: ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2187-09-30 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo man with ETOH cirrhosis and respiratory failure.  Patient more
   awake today, getting
   agitated when waking up.   Unclear if he is interactive
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-9-27**] 08:12 PM
   Piperacillin - [**2187-9-28**] 06:23 AM
   Ciprofloxacin - [**2187-9-29**] 10:32 PM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2187-9-29**] 08:24 PM
   Pantoprazole (Protonix) - [**2187-9-30**] 08:00 AM
   Other medications:
   Cipro
   chlorhex
   folate
   MVI
   lactulose 45 qid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-9-30**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 89 (65 - 128) bpm
   BP: 145/67(94) {97/43(61) - 177/91(122)} mmHg
   RR: 31 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.6 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 18 (7 - 18)mmHg
   Total In:
                                                                  2,002 mL
                                                                    284 mL
   PO:
   TF:
   IVF:
                                                                  1,842 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                  1,175 mL
   Urine:
                                                                  2,425 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,023 mL
                                                                   -891 mL
   Respiratory support
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 322 (322 - 487) mL
   PS : 5 cmH2O
   RR (Spontaneous): 38
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.40/43/184/25/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 460
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, moves
   eyebrows to name, does not follow commands
   Labs / Radiology
   11.0 g/dL
   42 K/uL
   133 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.5 mEq/L
   35 mg/dL
   109 mEq/L
   145 mEq/L
   32.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2187-9-28**]  05:35 AM
                             [**2187-9-28**]  05:44 AM
                             [**2187-9-28**]  08:50 AM
                             [**2187-9-28**]  09:00 AM
                             [**2187-9-28**]  05:44 PM
                             [**2187-9-28**]  05:54 PM
                             [**2187-9-29**]  02:15 AM
                             [**2187-9-29**]  05:46 PM
                             [**2187-9-30**]  03:29 AM
                             [**2187-9-30**]  03:49 AM
   WBC
   6.9
   5.9
   5.7
   6.8
   6.8
   Hct
   30.0
   29.6
   29.3
   31.7
   33.6
   32.8
   Plt
   40
   37
   36
   35
   42
   Cr
   1.5
   1.3
   1.3
   TCO2
   28
   29
   28
   28
   Glucose
   110
   113
   133
   Other labs: PT / PTT / INR:17.9/36.9/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:39/56, Alk Phos / T Bili:61/5.5,
   Amylase / Lipase:76/, Differential-Neuts:84.2 %, Lymph:9.9 %, Mono:5.7
   %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5
   g/dL, LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Respiratory failure:  Although close to extubation, does not look like
   he will tolerate it today given high RR (35) low Vt (about 300-350),
   low sat (93%) on SBT.
   MS:  Improved, but still poor, continue lactulose, propofol for
   sedation.
   Cirrhosis:  Increase lactulose dose, start rifaxamin
   ARF:  improving, grossly fluid overloaded, continue diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2187-10-01 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**9-30**]
   - vent settings increased to 15/5 due to increased work of breathing
   yesterday, decreased to [**6-5**] today
   - lasix drip started
   - Rifaximin started
   - sputum culture gram stain: 25PMNs, <10 epith, 1+ gram negative rods,
   1+ yeast [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 9734**], [**First Name3 (LF) **] follow cx
   - pulled ET tube back 2cm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-9-30**] 10:10 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 22 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2187-9-30**] 12:00 PM
   Pantoprazole (Protonix) - [**2187-9-30**] 07:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-1**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36
C (96.8
   HR: 76 (57 - 89) bpm
   BP: 153/56(86) {107/45(63) - 157/67(94)} mmHg
   RR: 23 (15 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 17 (11 - 22)mmHg
   Total In:
                                                                  2,535 mL
                                                                    457 mL
   PO:
   TF:
   IVF:
                                                                  2,035 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                  2,450 mL
   Urine:
                                                                  4,460 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,225 mL
                                                                 -1,993 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (236 - 526) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: 7.43/42/96.[**Numeric Identifier 181**]/30/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: sedated
   HEENT: NCAT, PERRL
   CV: RRR, no m/r/g
   resp: occ crackles and course bs anteriorly. Shallow breathing
   abd: distended, +BS
   ext: 3+ peripheral edema to thigh, sig scrotal edema
   Labs / Radiology
   40 K/uL
   11.0 g/dL
   127 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   30 mg/dL
   109 mEq/L
   146 mEq/L
   32.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-9-28**]  09:00 AM
                             [**2187-9-28**]  05:44 PM
                             [**2187-9-28**]  05:54 PM
                             [**2187-9-29**]  02:15 AM
                             [**2187-9-29**]  05:46 PM
                             [**2187-9-30**]  03:29 AM
                             [**2187-9-30**]  03:49 AM
                             [**2187-9-30**]  09:25 AM
                             [**2187-9-30**]  04:38 PM
                             [**2187-10-1**]  02:16 AM
   WBC
   5.7
   6.8
   6.8
   6.1
   Hct
   29.3
   31.7
   33.6
   32.8
   31.0
   32.9
   Plt
   36
   35
   42
   40
   Cr
   1.3
   1.3
   1.4
   1.3
   TCO2
   29
   28
   28
   29
   Glucose
   113
   133
   144
   127
   Other labs: PT / PTT / INR:17.6/36.1/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:34/56, Alk Phos / T Bili:59/3.6,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:270 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.9
   mg/dL
   Imaging: cxr [**9-30**]: FINDINGS: Tip of the ETT has not changed
   substantially over the last two days
   remaining 1.6 cm above the carina. Stable appearance of distended
   pulmonary
   vasculature, bilateral effusions, and retrocardiac density noted. There
   are
   no new consolidations. There is no pneumothorax, and the level of
   inspiration
   is somewhat shallow.
   Microbiology: GRAM STAIN (Final [**2187-9-30**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH [**Month/Day/Year **].
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Respiratory failure:  likely [**3-5**] fluid overload. Will continue lasix
   drip.  -2L yesterday.
   -goal TBB for today is -2L
   -on psv 5/5 today down from 15/5. Will try SBT either this afternoon or
   tomorrow
   MS:  continue lactulose and rifaximin, decrease propofol.
   Cirrhosis:  Increase lactulose dose, rifaxamin. on cipro for SBP ppx
   s/p GIB. On ppi
   -f/u liver recs
   ARF:  improving, thought to be prerenal [**3-5**] fluid overload, continue
   diuresis. Cr stable for past several days at 1.3 down from 2.5.
   sedation: on propofol gtt. Will lighten sedation as difficult to
   arouse.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM (LIJ)
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: will start pneumoboots
   Stress ulcer: protonix
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-01 11:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Liver Failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Lasix drip started yesterday, now off
   24 Hour Events:
   Hypotensive briefly to high 80s this AM --> improveed with decrease of
   propofol
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-9-30**] 10:10 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2187-9-30**] 12:00 PM
   Pantoprazole (Protonix) - [**2187-9-30**] 07:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-1**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 71 (57 - 81) bpm
   BP: 114/50(72) {81/37(52) - 157/66(93)} mmHg
   RR: 21 (14 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.9 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 296 (11 - 301)mmHg
   Total In:
                                                                  2,535 mL
                                                                    762 mL
   PO:
   TF:
   IVF:
                                                                  2,035 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                  3,100 mL
   Urine:
                                                                  4,460 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,225 mL
                                                                 -2,338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (236 - 526) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.46/44/86.[**Numeric Identifier 143**]/30/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout, Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   40 K/uL
   127 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   30 mg/dL
   109 mEq/L
   146 mEq/L
   32.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-9-28**]  05:44 PM
                             [**2187-9-28**]  05:54 PM
                             [**2187-9-29**]  02:15 AM
                             [**2187-9-29**]  05:46 PM
                             [**2187-9-30**]  03:29 AM
                             [**2187-9-30**]  03:49 AM
                             [**2187-9-30**]  09:25 AM
                             [**2187-9-30**]  04:38 PM
                             [**2187-10-1**]  02:16 AM
                             [**2187-10-1**]  09:50 AM
   WBC
   5.7
   6.8
   6.8
   6.1
   Hct
   29.3
   31.7
   33.6
   32.8
   31.0
   32.9
   Plt
   36
   35
   42
   40
   Cr
   1.3
   1.3
   1.4
   1.3
   TCO2
   28
   28
   29
   32
   Glucose
   113
   133
   144
   127
   Other labs: PT / PTT / INR:17.6/36.1/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:34/56, Alk Phos / T Bili:59/3.6,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:270 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   73 yo man with hypoxemic respiratory failure in setting of fluid
   resuscitation for GI Bleed
   Respiratory failure:  Fluid overload - still needs a significant amount
   of fluid off - aim for 2L today. Cont lasix gtt.
   Cirrhosis/Encephalopathy: Cont rifaxamin.  continue lactulose. Cont
   cipro ppx.
   GI bleed: Hct stable.
   ARF:  Cr stable
   Sedation: on propofol gtt. Lighten further today if possible
   ICU Care
   Nutrition:
   Comments: Start TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2187-10-02 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -hypernatremic in afternoon to 150, free water increased in tube feeds
   -pressure dropped x2. first time decreased propofol, second time slowed
   lasix gtt and gave 250cc bolus c good effect. Restarted lasix gtt
   around 10 or 11p as sbp in the 120s.
   -goal tbb for day  -2L
   -not on dvt ppx (no heparin/lovenox [**3-5**] GIB, pneumoboots don't fit)
   -pt having bloody respiratory secretions, gave 5 vit K as pt has not
   been eating for past several days
   -rr high @ 2am, concerned for fatigue. increased psv from [**9-5**] to 15/5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 12:03 PM
   Infusions:
   Other ICU medications:
   Propofol - [**2187-10-2**] 02:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-2**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 65 (60 - 82) bpm
   BP: 111/45(63) {81/37(52) - 140/73(90)} mmHg
   RR: 15 (14 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.3 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 19 (4 - 302)mmHg
   Total In:
                                                                  2,047 mL
                                                                    901 mL
   PO:
   TF:
                                                                    117 mL
                                                                    163 mL
   IVF:
                                                                  1,295 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  4,710 mL
                                                                  1,925 mL
   Urine:
                                                                  3,010 mL
                                                                    925 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,663 mL
                                                                 -1,024 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (330 - 458) mL
   PS : 15 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.49/40/95.[**Numeric Identifier 218**]/29/6
   Ve: 7.3 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Intubated, sedated, minimally responsive.  PERRL.
   Coarse rales and crackles bilaterally, decreased at bases.
   RRR, no audible murmurs
   Abdomen obese, soft, mildly distended but improved.  +BS
   2+ pedal edema.
   Labs / Radiology
   32 K/uL
   11.0 g/dL
   158 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.4 mEq/L
   28 mg/dL
   111 mEq/L
   148 mEq/L
   33.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2187-9-30**]  03:49 AM
                             [**2187-9-30**]  09:25 AM
                             [**2187-9-30**]  04:38 PM
                             [**2187-10-1**]  02:16 AM
                             [**2187-10-1**]  09:50 AM
                             [**2187-10-1**]  12:49 PM
                             [**2187-10-1**]  02:25 PM
                             [**2187-10-2**]  02:00 AM
                             [**2187-10-2**]  02:05 AM
                             [**2187-10-2**]  03:42 AM
   WBC
   6.1
   7.0
   Hct
   31.0
   32.9
   33.5
   Plt
   40
   32
   Cr
   1.4
   1.3
   1.4
   1.3
   TCO2
   28
   29
   32
   32
   34
   31
   Glucose
   144
   127
   135
   158
   Other labs: PT / PTT / INR:17.6/36.1/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:33/48, Alk Phos / T Bili:59/3.3,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Respiratory failure:  likely [**3-5**] fluid overload. Will continue lasix
   drip.  -2L yesterday.  Pressure support increased overnight due to
   concern for fatigue.  Yesterday psv increased from [**9-5**] to 15/5 [**3-5**]
   fatigue. This AM down from 15/5 to [**1-5**].
   -goal TBB for today is -2L
   -on psv down from 15/5 to [**1-5**] now. Will try SBT either this afternoon
   or tomorrow
   -will do BAL today to be sure no infectious etiology missed on CXR
   MS:  Remains sedated on propofol.
   -continue lactulose and rifaximin with good BM
   - potentially will decrease propofol when expectation of extubation.
   Anemia, h/o recent GIB:  HCT and platelets stable.
   -bloody secretions yesterday, though HCT has been stable, no other
   evidence of bleeding. Will get bronchoscopy today.
   -INR has been stable at 1.6, but with poor nutritional status.  Vitamin
   K given yesterday.
   Cirrhosis:  Continue lactulose, rifaxamin. on cipro for SBP ppx s/p
   GIB. On ppi
   -f/u liver recs
   ARF:  stable creatinine, improved, good urine output, continuing
   diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis
   Sedation: on propofol gtt. Will lighten sedation as difficult to
   arouse.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: (None currently)- will get larger
   pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:  Long discussion w/ family in regards to
   status yesterday
   Code status: Full code
   Disposition:ICU

2187-10-02 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   2 brief episodes of hotn - responsive to decreasing propofol, then
   fluid bolus of 250cc
   24 Hour Events:
   PSV increased from [**9-5**] to 15/5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 12:03 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-2**] 08:00 AM
   Propofol - [**2187-10-2**] 10:00 AM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-2**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 67 (63 - 82) bpm
   BP: 113/47(67) {86/39(56) - 140/73(90)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.3 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 6 (4 - 302)mmHg
   Total In:
                                                                  2,047 mL
                                                                  1,451 mL
   PO:
   TF:
                                                                    117 mL
                                                                    381 mL
   IVF:
                                                                  1,295 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  4,710 mL
                                                                  2,125 mL
   Urine:
                                                                  3,010 mL
                                                                  1,125 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,663 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 546 (330 - 546) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.49/40/95.[**Numeric Identifier 218**]/29/6
   Ve: 8.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffuse)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   32 K/uL
   158 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.4 mEq/L
   28 mg/dL
   111 mEq/L
   148 mEq/L
   33.5 %
   7.0 K/uL
        [image002.jpg]
                             [**2187-9-30**]  03:49 AM
                             [**2187-9-30**]  09:25 AM
                             [**2187-9-30**]  04:38 PM
                             [**2187-10-1**]  02:16 AM
                             [**2187-10-1**]  09:50 AM
                             [**2187-10-1**]  12:49 PM
                             [**2187-10-1**]  02:25 PM
                             [**2187-10-2**]  02:00 AM
                             [**2187-10-2**]  02:05 AM
                             [**2187-10-2**]  03:42 AM
   WBC
   6.1
   7.0
   Hct
   31.0
   32.9
   33.5
   Plt
   40
   32
   Cr
   1.4
   1.3
   1.4
   1.3
   TCO2
   28
   29
   32
   32
   34
   31
   Glucose
   144
   127
   135
   158
   Other labs: PT / PTT / INR:17.6/36.1/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:33/48, Alk Phos / T Bili:59/3.3,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   73 yo man with hypoxemic respiratory failure in setting of fluid
   resuscitation for GI Bleed
   Respiratory failure:  Continue diuresis - goal 2L negative.  Decrease
   PSV to [**1-5**].  Now with bloody secretions - will do an airway inspection
   by bronch and also get a BAL given increased need for ventilatory
   support
   Cirrhosis/Encephalopathy: Cont rifaxamin.  continue lactulose. Cont
   cipro ppx.
   GI bleed: Hct stable.
   ARF:  Cr stable
   Sedation: on propofol gtt.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-10-2**] 04:45 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: (has not been on boots because of edema - will put it on today)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2187-10-03 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2187-10-2**] 02:50 PM
   -no further bloody secretions today
   -CXR this morning with possible new infiltrate in LLL
   -bronchoscopy showed small amounts of blood in left bronchi, likely
   abrasions from suctioning.  Tube very near carina, pulled back, with
   post-repositioning CXR showing...
   -started vanco/Zosyn for empiric treatment of new PNA.
   -second large amount of stool emptied from rectal tube bag - 1.3 L,
   after 1 L early this morning.  Lactulose dose reduced from 60 to 30.
   -Post-bronch - ABG on 40% showed decreased O2, FiO2 then increased to
   50%
   -UOP 100 per hour on 5 of Lasix drip in afternoon, drip DC-ed at 5 pm,
   at -1400 negative.  Lasix gtt restarted at 8 pm.
   -2 am called to bedside - patient with significant rigors, mild temp.
   Tylenol given, blood cultures sent.  Also with significant tachypnea,
   increased crackles at this time.
   -PEEP increased to 8 with good effect - improved breath sounds.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 12:03 PM
   Vancomycin - [**2187-10-2**] 06:15 PM
   Piperacillin - [**2187-10-3**] 12:33 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2187-10-2**] 02:51 PM
   Pantoprazole (Protonix) - [**2187-10-2**] 08:00 PM
   Propofol - [**2187-10-2**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-3**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 66 (66 - 81) bpm
   BP: 127/48(67) {86/39(55) - 137/53(78)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.1 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 13 (3 - 22)mmHg
   Total In:
                                                                  3,479 mL
                                                                  1,068 mL
   PO:
   TF:
                                                                    835 mL
                                                                    167 mL
   IVF:
                                                                  1,209 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  4,445 mL
                                                                    855 mL
   Urine:
                                                                  2,145 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -966 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (284 - 546) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 138
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.48/41/81.[**Numeric Identifier 218**]/28/6
   Ve: 12.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Sedated, intubated
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   47 K/uL
   11.1 g/dL
   164 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   27 mg/dL
   113 mEq/L
   149 mEq/L
   34.3 %
   7.6 K/uL
        [image002.jpg]
   Micro Data:
GRAM STAIN (Final [**2187-10-2**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
                 NO MICROORGANISMS SEEN.
                             [**2187-10-1**]  12:49 PM
                             [**2187-10-1**]  02:25 PM
                             [**2187-10-2**]  02:00 AM
                             [**2187-10-2**]  02:05 AM
                             [**2187-10-2**]  03:42 AM
                             [**2187-10-2**]  04:32 PM
                             [**2187-10-2**]  05:11 PM
                             [**2187-10-2**]  05:47 PM
                             [**2187-10-2**]  09:37 PM
                             [**2187-10-3**]  03:14 AM
   WBC
   7.0
   7.6
   Hct
   33.5
   34.3
   Plt
   32
   47
   Cr
   1.4
   1.3
   1.3
   1.3
   TCO2
   32
   34
   31
   31
   32
   31
   Glucose
   135
   158
   147
   164
   Other labs: PT / PTT / INR:17.8/35.3/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/45, Alk Phos / T Bili:60/2.9,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Respiratory failure: likely [**3-5**] fluid overload, but now with increased
   suspicion for possible infectious component. -1L yesterday. Pressure
   support increased overnight, then PEEP increased after increased
   respiratory rate.  Bronch with BAL performed yesterday, well-tolerated,
   cultures pending.
   -started on empiric vanco/Zosyn yesterday for new infiltrate read on
   CXR.
   -SBT yesterday, tachypneic.
   -fever with rigors overnight.
   -XR this morning shows...
   MS: Remains sedated on propofol.
   -continue lactulose and rifaximin with good BM.  Lactulose dose
   decreased yesterday after large volume bowel movements.
   Fevers:  new infiltrate seen on CXR, with fever and rigors overnight.
   -Vanco and Zosyn started empirically.
   -followup on BAL culture results to determine if need for continued
   treatment
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
   Anemia, h/o recent GIB: HCT and platelets stable.
   -bloody secretions yesterday, though HCT has been stable, no other
   evidence of bleeding. Bronchoscopy showed evidence of recent mild
   bleeding, possible bronchial abrasions.
   -INR has been stable at 1.6, but with poor nutritional status. Vitamin
   K given [**10-1**].
   Cirrhosis: Continue lactulose, rifaxamin. Had been on Cipro for SBP
   prophylaxis, now on Vanco/Zosyn.
   -f/u liver recs
   -continue PPI
   ARF: stable creatinine with good urine output, continuing diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis with Lasix gtt as BP tolerates.
   Electrolytes:  Sodium remains consistently elevated despite increasing
   free water flushes, potassium trending low.
   -continue to replete potassium.
   -continue free water flushes.
   Sedation: on propofol gtt. Will attempt to wean today, SBT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:  PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:   communicated with family yesterday, son
   [**Name (NI) 9786**]
   [**Name (NI) 36**] status: Full code
   Disposition:  ICU

2187-10-03 10:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did not tolerate SBT yesterday
   Increased PEEP to 8 overnight
   Rigors overnight briefly
   24 Hour Events:
 BRONCHOSCOPY - At [**2187-10-2**] 02:50 PM
       -L mainstem w/ findings c/w suction trauma.  BAL of LLL done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 12:03 PM
   Piperacillin - [**2187-10-3**] 12:33 AM
   Vancomycin - [**2187-10-3**] 08:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-3**] 08:25 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2187-10-2**] 02:51 PM
   Propofol - [**2187-10-2**] 09:20 PM
   Pantoprazole (Protonix) - [**2187-10-3**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-3**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 76 (66 - 81) bpm
   BP: 158/66(93) {86/39(55) - 158/66(93)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.1 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 4 (3 - 14)mmHg
   Total In:
                                                                  3,479 mL
                                                                  1,956 mL
   PO:
   TF:
                                                                    835 mL
                                                                    167 mL
   IVF:
                                                                  1,209 mL
                                                                    829 mL
   Blood products:
   Total out:
                                                                  4,445 mL
                                                                  1,180 mL
   Urine:
                                                                  2,145 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -966 mL
                                                                    776 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (284 - 600) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 138
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/41/81.[**Numeric Identifier 218**]/28/6
   Ve: 10.5 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   47 K/uL
   164 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   27 mg/dL
   113 mEq/L
   149 mEq/L
   34.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2187-10-1**]  12:49 PM
                             [**2187-10-1**]  02:25 PM
                             [**2187-10-2**]  02:00 AM
                             [**2187-10-2**]  02:05 AM
                             [**2187-10-2**]  03:42 AM
                             [**2187-10-2**]  04:32 PM
                             [**2187-10-2**]  05:11 PM
                             [**2187-10-2**]  05:47 PM
                             [**2187-10-2**]  09:37 PM
                             [**2187-10-3**]  03:14 AM
   WBC
   7.0
   7.6
   Hct
   33.5
   34.3
   Plt
   32
   47
   Cr
   1.4
   1.3
   1.3
   1.3
   TCO2
   32
   34
   31
   31
   32
   31
   Glucose
   135
   158
   147
   164
   Other labs: PT / PTT / INR:17.8/35.3/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/45, Alk Phos / T Bili:60/2.9,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:211 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Microbiology: BAL: Gram stain negative
   Assessment and Plan
   73 yo man with hypoxemic respiratory failure in setting of fluid
   resuscitation for GI Bleed
   Respiratory failure:  Now appears to have VAP with increased
   secretions, need for more vent support, rigors.  Cont vanc/Zosyn.
   Awaiting BAL culture results.  Continue diuresis - goal 1.5-2L
   negative.  Cont Lasix gtt.  Try to decrease vent support if possible
   Cirrhosis/Encephalopathy: Cont rifaxamin.  continue lactulose. Cont
   cipro ppx. Try to lighten sedation.
   GI bleed: Hct stable.
   ARF:  Cr stable
   Sedation: on propofol gtt.
   Remainder of issue per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-10-04 07:35:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9234**] is a 73 year old gentleman with a PMH
   significant for MELD 21 EtOH cirrhosis complicated by encephalopathy
   and varices, EtOH abuse, HTN, and recent MVA admitted for hematemesis,
   transferred to the MICU for hypotension, ARF, and leukocytosis.
   24 Hour Events:
 BLOOD CULTURED - At [**2187-10-4**] 04:00 AM
 BLOOD CULTURED - At [**2187-10-4**] 04:00 AM
 URINE CULTURE - At [**2187-10-4**] 04:00 AM
   -Spiked to 100.4 at 4pm, pancultured
   -Decreased propofol to 15/hour
   -decreased PEEP from 8 to 5; ABG stable at 7.5/40/79/32
   -Goal UOP is 1.5 to 2L negative; as of 12am, was 800 negative.
   Increased lasix drip from 6 to 8.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 12:03 PM
   Piperacillin - [**2187-10-3**] 12:33 AM
   Vancomycin - [**2187-10-3**] 08:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-4**] 12:03 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-3**] 08:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-4**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 74 (70 - 82) bpm
   BP: 96/38(57) {91/38(57) - 158/118(123)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.1 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 11 (4 - 12)mmHg
   Total In:
                                                                  4,104 mL
                                                                  1,357 mL
   PO:
   TF:
                                                                    167 mL
                                                                    260 mL
   IVF:
                                                                  1,936 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                  1,030 mL
   Urine:
                                                                  3,500 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -796 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (406 - 600) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 200
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.54/39/86.[**Numeric Identifier 143**]/32/9
   Ve: 11 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   11.5 g/dL
   156 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.0 mEq/L
   26 mg/dL
   112 mEq/L
   151 mEq/L
   35.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2187-10-2**]  03:42 AM
                             [**2187-10-2**]  04:32 PM
                             [**2187-10-2**]  05:11 PM
                             [**2187-10-2**]  05:47 PM
                             [**2187-10-2**]  09:37 PM
                             [**2187-10-3**]  03:14 AM
                             [**2187-10-3**]  02:30 PM
                             [**2187-10-3**]  02:41 PM
                             [**2187-10-4**]  03:23 AM
                             [**2187-10-4**]  03:38 AM
   WBC
   7.6
   10.2
   Hct
   34.3
   35.1
   Plt
   47
   42
   Cr
   1.3
   1.3
   1.2
   1.3
   TCO2
   31
   31
   32
   31
   32
   34
   Glucose
   147
   164
   149
   156
   Other labs: PT / PTT / INR:18.3/36.4/1.7, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/39, Alk Phos / T Bili:58/2.8,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #Respiratory failure: likely [**3-5**] fluid overload, but now with increased
   suspicion for possible infectious component. Continuing to diurese.
   Sedation reduced also.
   -continue diuresis. Will give albumin c lasix today
   -started on empiric vanco/Zosyn/cipro, now day 3, for new infiltrate
   read on CXR. Also with fevers/rigors and increased secretions
   -f/u BAL cultures - initial Gram stain negative for polys and
   microorganisms
   -wean vent prn
   #MS: Remains sedated on propofol, reduced rate.
   -continue lactulose and rifaximin with good BM.
   -will continue to attempt reducing propofol
   #Fevers:  new infiltrate seen on CXR, with continued fevers.
   Respiratory status improved yesterday.
   -continue Vanco/Zosyn - vanco trough this morning pending
   -followup on BAL culture results to determine if need for continued
   treatment
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
   #Anemia, h/o recent GIB: HCT and platelets stable.
   -bloody secretions resolved, HCT has been stable, no other evidence of
   bleeding. Bronchoscopy showed evidence of recent mild bleeding,
   possible bronchial abrasions.
   -INR remains stable, no signs of active bleeding.
   #Cirrhosis: Continue lactulose, rifaxamin. Previously on Cipro for SBP
   prophylaxis, now on Vanco/Zosyn.
   -continue lactulose/rifaximin
   -continue PPI
   #ARF: stable creatinine with good urine output, continuing diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis with Lasix gtt as BP tolerates.
   #Electrolytes:  Sodium remains consistently elevated despite increasing
   free water flushes, potassium trending low.
   -continue to replete potassium, mag, phos.
   -start D5W at 75 ml per hour for now, will calculate free water deficit
   later today.  Free water flushes [**Month (only) **]. to 50 Q4.
   -will ask nutrition about increasing K in tube feeds
   Sedation: on propofol gtt. Will attempt to wean today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-10-4**] 12:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2187-10-04 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PEEP down to 5
   24 Hour Events:
 BLOOD CULTURED - At [**2187-10-4**] 04:00 AM
 BLOOD CULTURED - At [**2187-10-4**] 04:00 AM
 URINE CULTURE - At [**2187-10-4**] 04:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-1**] 12:03 PM
   Piperacillin - [**2187-10-3**] 12:33 AM
   Vancomycin - [**2187-10-4**] 08:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-4**] 09:10 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-4**] 08:41 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2187-10-4**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 76 (66 - 82) bpm
   BP: 116/52(72) {91/38(57) - 143/56(80)} mmHg
   RR: 22 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.6 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 12 (5 - 12)mmHg
   Total In:
                                                                  4,104 mL
                                                                  2,209 mL
   PO:
   TF:
                                                                    167 mL
                                                                    408 mL
   IVF:
                                                                  1,936 mL
                                                                    811 mL
   Blood products:
   Total out:
                                                                  4,900 mL
                                                                  1,265 mL
   Urine:
                                                                  3,500 mL
                                                                  1,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -796 mL
                                                                    944 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (351 - 502) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 200
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.54/39/86.[**Numeric Identifier 143**]/32/9
   Ve: 12.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   42 K/uL
   156 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   26 mg/dL
   112 mEq/L
   152 mEq/L
   35.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2187-10-2**]  03:42 AM
                             [**2187-10-2**]  04:32 PM
                             [**2187-10-2**]  05:11 PM
                             [**2187-10-2**]  05:47 PM
                             [**2187-10-2**]  09:37 PM
                             [**2187-10-3**]  03:14 AM
                             [**2187-10-3**]  02:30 PM
                             [**2187-10-3**]  02:41 PM
                             [**2187-10-4**]  03:23 AM
                             [**2187-10-4**]  03:38 AM
   WBC
   7.6
   10.2
   Hct
   34.3
   35.1
   Plt
   47
   42
   Cr
   1.3
   1.3
   1.2
   1.3
   TCO2
   31
   31
   32
   31
   32
   34
   Glucose
   147
   164
   149
   156
   Other labs: PT / PTT / INR:18.3/36.4/1.7, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/39, Alk Phos / T Bili:58/2.8,
   Amylase / Lipase:76/85, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   73 yo man with hypoxemic respiratory failure in setting of fluid
   resuscitation for GI Bleed
   Respiratory failure:  Cont vanc/Zosyn/cipro for VAP.  Awaiting BAL
   culture results.  Continue diuresis if BP tolerates.  Will give albumin
   with Lasix.  Try to decrease vent support if possible - RSBI 200.
   Cirrhosis/Encephalopathy: Cont rifaxamin.  continue lactulose. Cont
   cipro ppx. Try to lighten sedation.
   GI bleed: Hct stable.
   ARF:  Cr stable
   Sedation: on propofol gtt.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-10-4**] 12:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Not on sq heparin.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2187-10-4**] 12:01 ------

2187-10-05 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -attempts to diurese c/b low BPs
   -started on levophed and continued on lasix drip in afternoon
   -consider d/w renal ultrafiltration [**Doctor First Name 697**] as has now been vented for a
   while
   -RR increased after sedation decreased. sedation increased again. abg
   same (po2 a little better), however rr still high. increased vent to
   psv 17/5 and FiO2 0.5
   -fevers, cultures pending
   -tube feeds changed to beneprotein c extra K
   -repleted K c 60IV and 40PO this am
   -gave diuril plus increased lasix gtt max to 20 and UOP improved o/n
   -Levophed decreased, now off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-10-3**] 12:33 AM
   Vancomycin - [**2187-10-4**] 07:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-5**] 12:01 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-4**] 07:51 PM
   Propofol - [**2187-10-4**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-5**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 63 (62 - 78) bpm
   BP: 114/48(68) {93/42(57) - 124/55(76)} mmHg
   RR: 15 (0 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.6 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 15 (12 - 15)mmHg
   Total In:
                                                                  4,923 mL
                                                                  1,613 mL
   PO:
   TF:
                                                                    842 mL
                                                                    158 mL
   IVF:
                                                                  2,660 mL
                                                                  1,175 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,580 mL
                                                                  2,275 mL
   Urine:
                                                                  2,780 mL
                                                                  2,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,343 mL
                                                                   -662 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (350 - 550) mL
   PS : 17 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: 7.52/39/109/33/8
   Ve: 10.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Sedated, intubated, but arousable, responsive.
   Coarse bilateral ronchi in anterior lung fields
   RRR, no audible murmurs
   Abdomen obese, soft, slightly distended, but improved from previous.
   2+ pedal edema bilaterally
   Labs / Radiology
   57 K/uL
   11.1 g/dL
   176 mg/dL
   1.4 mg/dL
   33 mEq/L
   2.8 mEq/L
   26 mg/dL
   111 mEq/L
   152 mEq/L
   34.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2187-10-3**]  03:14 AM
                             [**2187-10-3**]  02:30 PM
                             [**2187-10-3**]  02:41 PM
                             [**2187-10-4**]  03:23 AM
                             [**2187-10-4**]  03:38 AM
                             [**2187-10-4**]  02:15 PM
                             [**2187-10-4**]  02:21 PM
                             [**2187-10-4**]  08:53 PM
                             [**2187-10-5**]  03:43 AM
                             [**2187-10-5**]  03:56 AM
   WBC
   7.6
   10.2
   12.4
   Hct
   34.3
   35.1
   34.0
   Plt
   47
   42
   57
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   TCO2
   32
   34
   34
   31
   33
   Glucose
   164
   149
   156
   162
   176
   Other labs: PT / PTT / INR:17.4/36.6/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/39, Alk Phos / T Bili:58/2.8,
   Amylase / Lipase:84/150, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #Respiratory failure: likely [**3-5**] fluid overload, but now with increased
   suspicion for possible infectious component. Continuing to diurese.
   Sedation reduced also.
   -continue diuresis. Albumin given yesterday, Diuril later in the day.
   Urine output increased yesterday afternoon/evening.  Plan to continue
   Lasix, add metolazone 2.5 [**Hospital1 7**] for added diuretic effect.
   -started on empiric vanco/Zosyn/cipro, now day 4 of 7 day course, for
   previous new infiltrate read on CXR. Also with fevers/rigors and
   increased secretions two days ago, though improved now.
   - BAL final culture negative.
   - Slightly worsened respiratory status yesterday - RR increased with
   weaned sedation, PS increased in the evening.
   #MS: Remains sedated on propofol, reduced rate.
   -continue lactulose and rifaximin with good BM.
   -will continue to attempt reducing propofol - lipase slightly elevated
   yesterday.
   -re-check lipase tomorrow
   #Fevers:  new infiltrate seen on CXR, with continued fevers.
   Respiratory status improved yesterday.
   -continue Vanco/Zosyn/cipro
   -BAL culture negative
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
   #Anemia, h/o recent GIB: HCT and platelets stable.
   -bloody secretions resolved, HCT has been stable, no other evidence of
   bleeding.
   -INR remains stable, no signs of active bleeding.
   #Cirrhosis: Continue lactulose, rifaxamin. Previously on Cipro for SBP
   prophylaxis, now on Vanco/Zosyn.
   -continue lactulose/rifaximin
 good bowel movements recently.
   -continue PPI
   #ARF: stable creatinine with good urine output, continuing diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis, goal 1-2 liters negative per day.
   #Electrolytes:  Sodium remains consistently elevated despite increasing
   free water flushes, potassium trending low.
   -continue to replete potassium, mag, phos.
   -continue D5W at increased rate and free water flushes.  Follow lytes
   Q12.
   -continue potassium repletion
 add K to D5W fluids.
   Sedation: on propofol gtt. Will attempt to wean today.
   ICU Care
   Nutrition:
   Glycemic Control:   ISS
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2187-10-05 12:15:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on levophed yesterday to try to facilitate diuresis
   PSV incresed to 17/5, FIO2 to 0.5 --> now back down to 10/5
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2187-10-3**] 12:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-5**] 08:01 AM
   Vancomycin - [**2187-10-5**] 08:34 AM
   Ciprofloxacin - [**2187-10-5**] 11:45 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Propofol - [**2187-10-4**] 08:12 PM
   Pantoprazole (Protonix) - [**2187-10-5**] 08:34 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-10-5**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 67 (61 - 78) bpm
   BP: 140/55(78) {93/42(57) - 140/55(78)} mmHg
   RR: 23 (0 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.6 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  4,923 mL
                                                                  2,879 mL
   PO:
   TF:
                                                                    843 mL
                                                                    419 mL
   IVF:
                                                                  2,660 mL
                                                                  2,020 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,580 mL
                                                                  3,305 mL
   Urine:
                                                                  2,780 mL
                                                                  3,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,343 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 457 (350 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.52/39/109/33/8
   Ve: 11.2 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base > L base)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, arousable
   Labs / Radiology
   11.1 g/dL
   57 K/uL
   176 mg/dL
   1.4 mg/dL
   33 mEq/L
   2.8 mEq/L
   26 mg/dL
   111 mEq/L
   152 mEq/L
   34.0 %
   12.4 K/uL
        [image002.jpg]
                             [**2187-10-3**]  03:14 AM
                             [**2187-10-3**]  02:30 PM
                             [**2187-10-3**]  02:41 PM
                             [**2187-10-4**]  03:23 AM
                             [**2187-10-4**]  03:38 AM
                             [**2187-10-4**]  02:15 PM
                             [**2187-10-4**]  02:21 PM
                             [**2187-10-4**]  08:53 PM
                             [**2187-10-5**]  03:43 AM
                             [**2187-10-5**]  03:56 AM
   WBC
   7.6
   10.2
   12.4
   Hct
   34.3
   35.1
   34.0
   Plt
   47
   42
   57
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   TCO2
   32
   34
   34
   31
   33
   Glucose
   164
   149
   156
   162
   176
   Other labs: PT / PTT / INR:17.4/36.6/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/39, Alk Phos / T Bili:58/2.8,
   Amylase / Lipase:84/150, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR: some decrease in B/L hilar fullness
   Assessment and Plan
   73 yo man with hypoxemic respiratory failure in setting of fluid
   resuscitation for GI Bleed
   Respiratory failure:  Cont vanc/Zosyn/cipro for VAP (Day 4/7BAL culture
   negative.  Some diuresis overnight --> now off of levophed.  Continue
   Lasix gtt and add metolazone 3.5mg [**Hospital1 7**].   Starting to come down on vent
   settings.
   Cirrhosis/Encephalopathy: Cont rifaxamin.  continue lactulose. Cont
   cipro ppx.
   Hypernatremia: free water repletion
   Hypokalemia: repletion as needed
   GI bleed: Hct stable.
   ARF:  Cr stable
   Sedation: on propofol gtt - but more awake and on minimal dose.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-10-5**] 04:29 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   20 Gauge - [**2187-10-5**] 08:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2187-10-06 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2187-10-5**] 09:01 AM
   -continued to be more alert during the day
   -persistently low K, high sodium
   -increased free water in IVF and tube feeds, continued Lasix drip.
   -later in the evening - K remained low, sodium slightly improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-5**] 11:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-5**] 04:30 PM
   Vancomycin - [**2187-10-5**] 08:42 PM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-5**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-6**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 65 (60 - 74) bpm
   BP: 118/48(67) {95/41(55) - 140/61(85)} mmHg
   RR: 28 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.2 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 9 (5 - 10)mmHg
   Total In:
                                                                  6,330 mL
                                                                  1,715 mL
   PO:
   TF:
                                                                    843 mL
                                                                    202 mL
   IVF:
                                                                  4,262 mL
                                                                  1,013 mL
   Blood products:
   Total out:
                                                                  6,990 mL
                                                                  3,300 mL
   Urine:
                                                                  6,090 mL
                                                                  3,300 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                   -660 mL
                                                                 -1,585 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 588 (352 - 588) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 138
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.53/44/104/35/13
   Ve: 10 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Gen: Awake, alert, interacting with family
   CV: regular rate
   Lungs: B/l rhonchi
   Abd: soft, NT, mild distension, +BS
   Ext: [**2-2**]+ pitting edema, improving; 2+ pulses b/l
   Labs / Radiology
   69 K/uL
   11.2 g/dL
   172 mg/dL
   1.4 mg/dL
   35 mEq/L
   2.6 mEq/L
   28 mg/dL
   103 mEq/L
   148 mEq/L
   34.7 %
   14.0 K/uL
                             [**2187-10-4**]  03:38 AM
                             [**2187-10-4**]  02:15 PM
                             [**2187-10-4**]  02:21 PM
                             [**2187-10-4**]  08:53 PM
                             [**2187-10-5**]  03:43 AM
                             [**2187-10-5**]  03:56 AM
                             [**2187-10-5**]  12:40 PM
                             [**2187-10-5**]  12:46 PM
                             [**2187-10-6**]  02:00 AM
                             [**2187-10-6**]  04:20 AM
   WBC
   12.4
   14.0
   Hct
   34.0
   34.7
   Plt
   57
   69
   Cr
   1.3
   1.4
   1.4
   1.4
   TCO2
   34
   34
   31
   33
   36
   38
   Glucose
   162
   176
   168
   172
   Other labs: PT / PTT / INR:17.0/36.6/1.5, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/39, Alk Phos / T Bili:58/2.8,
   Amylase / Lipase:132/211, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR-moderate pulmonary edema and b/l pleural effusions L>R
   Microbiology: [**2187-10-5**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2187-10-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2187-10-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2187-10-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2187-10-2**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2187-10-1**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #Respiratory failure: likely [**3-5**] fluid overload, but now with increased
   suspicion for possible infectious component. Continuing to diurese,
   currently negative 1.5 liters.  Sedation reduced also.
   -continue diuresis with Lasix and metolazone 2.5 [**Hospital1 7**] for added diuretic
   effect for 1.5 liters negative goal today
   -started on empiric vanco/Zosyn/cipro, now day 5 of 7 day course, for
   previous new infiltrate read on CXR. Also with fevers/rigors and
   increased secretions three days ago, though improved now.
   - BAL final culture negative.
   - Currently on pressure support 15/5. Will attempt to wean further and
   will prepare for extubation tomorrow AM.
   #MS: Improved  now that weaning down propofol
   -continue lactulose and rifaximin with good BM.
   -will continue to attempt reducing propofol - lipase elevated to 211
   from 150 on [**10-4**].
   -re-check lipase tomorrow
    #Fevers:  new infiltrate seen on CXR, with continued low-grade fevers
   and uptrending white count.   Respiratory status improved. Continue
   with current management since all cultures negative to date.
   -continue Vanco/Zosyn/cipro
   -BAL culture negative, blood cx negative to date
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
    #Anemia, h/o recent GIB: HCT and platelets stable.
   -bloody secretions resolved, HCT has been stable, no other evidence of
   bleeding.
   -INR remains stable, no signs of active bleeding.
   #Cirrhosis: Continue lactulose, rifaxamin. Previously on Cipro for SBP
   prophylaxis, now on Vanco/Zosyn.
   -continue lactulose/rifaximin
 good bowel movements recently.
   -continue PPI
   #ARF: stable creatinine with good urine output, continuing diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis with lasix and metolazone, goal 1-2 liters negative
   per day.
   #Electrolytes:  Sodium remains consistently elevated despite increasing
   free water flushes, potassium trending low.
    -continue to replete potassium, mag, phos.
   -continue D5W at increased rate and free water flushes.  Follow lytes
   Q12.
   -continue potassium repletion
 add K to D5W fluids.
   #Sedation: on propofol gtt. Will attempt to wean completely today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2187-10-6**] 12:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   20 Gauge - [**2187-10-5**] 08:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   We will hold tube feeds in am for planned extubation and continue to
   mobilize edema with lasix infusion. He will need to have family at
   bedside to assist with translation in case of anxiety peri-extubation.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2187-10-6**] 18:47 ------

2187-10-07 07:21:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 9234**] is a 73 year old gentleman with a PMH
   significant for MELD 21 EtOH cirrhosis complicated by encephalopathy
   and varices, EtOH abuse, HTN, and recent MVA admitted for hematemesis
   now transferred to the MICU for hypotension, ARF, and leukocytosis
   found to have GIB which has resolved but now ? pna and volume
   overloaded attempting to diurese and extubate.
   24 Hour Events:
   -propofol weaned
   -persistently low K (repleted with IV and PO potassium), Na trending
   down
   -got morphine IV for abdominal pain (? [**3-5**] pancreatitis in light of
   elevated lipase)
   -goal one liter negative
   -tube feeds held after midnight in preparation for SBT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-6**] 11:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-6**] 04:34 PM
   Vancomycin - [**2187-10-6**] 07:46 PM
   Infusions:
   Furosemide (Lasix) - 17 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-6**] 08:27 AM
   Morphine Sulfate - [**2187-10-7**] 12:00 AM
   Lorazepam (Ativan) - [**2187-10-7**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-7**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 74 (60 - 81) bpm
   BP: 131/53(74) {95/39(55) - 139/57(80)} mmHg
   RR: 23 (17 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.3 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 10 (6 - 325)mmHg
   Total In:
                                                                  7,444 mL
                                                                  1,457 mL
   PO:
   TF:
                                                                    733 mL
                                                                     61 mL
   IVF:
                                                                  5,001 mL
                                                                    836 mL
   Blood products:
   Total out:
                                                                  8,090 mL
                                                                  1,695 mL
   Urine:
                                                                  7,190 mL
                                                                  1,695 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                   -646 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (185 - 531) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 1398**]: 180
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.51/47/74/35/12
   Ve: 10.8 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Gen: intubated, arousable
   Cv: RRR
   Ctab
   Ext: sig pitting edema in feet, warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   63 K/uL
   10.5 g/dL
   136 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.0 mEq/L
   30 mg/dL
   103 mEq/L
   145 mEq/L
   32.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2187-10-4**]  08:53 PM
                             [**2187-10-5**]  03:43 AM
                             [**2187-10-5**]  03:56 AM
                             [**2187-10-5**]  12:40 PM
                             [**2187-10-5**]  12:46 PM
                             [**2187-10-6**]  02:00 AM
                             [**2187-10-6**]  04:20 AM
                             [**2187-10-6**]  02:14 PM
                             [**2187-10-7**]  03:03 AM
                             [**2187-10-7**]  03:52 AM
   WBC
   12.4
   14.0
   8.5
   Hct
   34.0
   34.7
   32.6
   Plt
   57
   69
   63
   Cr
   1.4
   1.4
   1.4
   1.4
   TCO2
   31
   33
   36
   38
   38
   39
   Glucose
   176
   168
   172
   136
   Other labs: PT / PTT / INR:17.1/35.7/1.5, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:27/39, Alk Phos / T Bili:58/2.8,
   Amylase / Lipase:132/198, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Imaging: IMPRESSION: Improved pulmonary edema which is moderate. Stable
   moderate
   cardiomegaly with small bibasilar pleural effusions are stable.
   Microbiology: no new
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #Respiratory failure: likely [**3-5**] fluid overload, but now with increased
   suspicion for possible infectious component. Continuing to diurese,
   currently negative 1.5 liters.  Sedation reduced also.
   -continue diuresis with Lasix and metolazone 2.5 [**Hospital1 7**] for added diuretic
   effect for 1.5 liters negative goal today
   -started on empiric vanco/Zosyn/cipro, now day 6 of 7 day course, for
   previous new infiltrate read on CXR. Also with fevers/rigors and
   increased secretions three days ago, though improved now.
   - BAL final culture negative.
   - Currently on pressure support [**1-5**]. Will attempt to wean further and
   consider extubation, though pulling rather small tidal volumes
   currently.
   #MS: Improved  now that weaning down propofol
   -continue lactulose and rifaximin with good BM.
   -will continue to attempt reducing propofol - lipase stable around 200.
    #Fevers:  no obvious source, infiltrate found several days ago on cxr,
   afebrile overnight
   -continue Vanco/Zosyn/cipro day [**7-8**]
   -BAL culture from [**10-2**] negative, blood cx negative to date
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
     #Anemia, h/o recent GIB: HCT and platelets stable.
   -bloody secretions resolved, HCT has been stable, no other evidence of
   bleeding.
   -INR remains stable, no signs of active bleeding.
   #Cirrhosis: Continue lactulose, rifaxamin. Previously on Cipro for SBP
   prophylaxis, now on Vanco/Zosyn.
   -continue lactulose/rifaximin
 good bowel movements recently.
   -continue PPI
   -start spironolactone
   #volume overload: stable creatinine with good urine output, continuing
   diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis with lasix and metolazone, goal 1-2 liters negative
   per day. Add sprionolactone
   #Electrolytes:  Sodium remains consistently elevated despite increasing
   free water flushes, potassium trending low.
    -continue to replete potassium, mag, phos.
   -continue D5W at increased rate and free water flushes.  Follow lytes
   Q12.
   -continue potassium repletion
 add K to D5W fluids.
   -add spironolactone as low na and high k probably potentiated by high
   [**Male First Name (un) **]
   #Sedation: on propofol gtt. Will attempt to wean completely today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Arterial Line - [**2187-9-26**] 03:30 PM
   20 Gauge - [**2187-10-5**] 08:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Name13 (STitle) 9877**] appears ready for extubation with continued net negative
   fluid balance and stable oxygenation. He will have body position
   optimized and family at bedside to help with anxiety that has likely
   caused problems with [**Name (NI) 1398**] of > 130. I suspect that once his ETT has
   been pulled, we will have better control of BP and ability to tolerate
   diuretics ( including aldactone). Full antibiotic course to conclude
   this week.
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2187-10-7**] 15:14 ------

2187-10-08 06:56:00 Physician Resident Progress Note
Chief Complaint: 73 year old male with history of EtOH cirrhosis
   transfered from OSH on [**9-26**] after massive UGIB and intubation.  GI
   performed banding of several large esophageal varices.  Transfered to
   MICU after developing hypotension, renal failure, leukocytosis.
   Extubated yesterday, renal failure and leukocytosis resolved.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2187-10-7**] 12:14 PM
 ARTERIAL LINE - STOP [**2187-10-7**] 05:39 PM
   -pt successfully extubated
   -pulled out aline
   -gave 2.5 zydis for agitation
   -GI says will need repeat banding next week
   -s&s consult ordered
   -spironolactone ordered but not getting as not getting POs
   -? call out soon?
   -? PICC placement?
   -got 60IV K this am in addition d5W c K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2187-10-6**] 11:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-7**] 03:58 PM
   Vancomycin - [**2187-10-7**] 08:39 PM
   Piperacillin - [**2187-10-8**] 12:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-7**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-8**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 68 (60 - 84) bpm
   BP: 125/47(66) {101/37(51) - 140/57(77)} mmHg
   RR: 22 (15 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.6 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  3,507 mL
                                                                  1,045 mL
   PO:
   TF:
                                                                     61 mL
   IVF:
                                                                  2,586 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                  7,765 mL
                                                                  2,425 mL
   Urine:
                                                                  6,665 mL
                                                                  2,025 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                 -4,258 mL
                                                                 -1,380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 158 (158 - 413) mL
   PS : 5 cmH2O
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 92%
   ABG: 7.52/47/82.[**Numeric Identifier 143**]/39/13
   Ve: 10.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Alert, conversant, slightly agitated
 difficult to fully assess MS due
   to language barrier.
   Coarse BS bilaterally, but with good air movement in anterior lung
   fields.
   RRR, no MRG
   Abdomen soft, non-tender, non-distended, +BS.
   1+ Pedal edema bilaterally
 improved.
   No bleeding at former A-line site.
   Labs / Radiology
   52 K/uL
   10.6 g/dL
   147 mg/dL
   1.4 mg/dL
   39 mEq/L
   2.5 mEq/L
   30 mg/dL
   101 mEq/L
   148 mEq/L
   32.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2187-10-5**]  12:46 PM
                             [**2187-10-6**]  02:00 AM
                             [**2187-10-6**]  04:20 AM
                             [**2187-10-6**]  02:14 PM
                             [**2187-10-7**]  03:03 AM
                             [**2187-10-7**]  03:52 AM
                             [**2187-10-7**]  12:02 PM
                             [**2187-10-7**]  03:05 PM
                             [**2187-10-7**]  11:32 PM
                             [**2187-10-8**]  03:21 AM
   WBC
   14.0
   8.5
   8.0
   Hct
   34.7
   32.6
   32.3
   Plt
   69
   63
   52
   Cr
   1.4
   1.4
   1.4
   1.4
   TCO2
   36
   38
   38
   39
   38
   40
   Glucose
   172
   136
   132
   147
   Other labs: PT / PTT / INR:17.7/35.9/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:18/36, Alk Phos / T Bili:53/3.8,
   Amylase / Lipase:132/183, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #Respiratory failure: likely [**3-5**] fluid overload originally, but with
   possible pneumonia superimposed.  Now improved after diuresis and
   antibiosis.  Extubated yesterday.
   -continue diuresis with Lasix. After seen by speech and swallow, can
   get  metolazone and spironolactone for added diuretic effect for 1.5
   liters negative goal today
   -started on empiric vanco/Zosyn/cipro, now day 6 of 7 day course, for
   previous new infiltrate read on CXR. Also with fevers/rigors and
   increased secretions several days ago, though improved now.
   - BAL final culture negative.
   - Currently on pressure support 15/5. Will attempt to wean further and
   will prepare for extubation tomorrow AM.
   #MS: Extubated, alert, much improved.
   -Has been making good stool output.
   -agitated yesterday, pulled out A-line
   -given Zydis for agitation.
   -re-check lipase tomorrow (trending now)
   #Elevated lipase:  on propofol sedation until yesterday, with increase
   in lipase noted.
   -lab value peaked 2 days ago, now decreasing slowly
   -off propofol
   -continue to trend and monitor symptoms, imaging if clinically
   indicated.
    #Possible infection:  Afebrile, leukocytosis resolved for past 2 days
   after 2 day increase.   Respiratory status improved. Continue with
   current management since all cultures negative to date.
   -continue Vanco/Zosyn/cipro
   -BAL culture negative, blood cx negative to date
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
    #Anemia, h/o recent GIB: HCT and platelets stable.  Will continue to
   follow given history of recent UGIB.
   -GI recommends repeat banding next week - will follow recs.
   -INR remains stable, no signs of active bleeding.
   -Continue PPI
   #Cirrhosis: Continuing lactulose, rifaxamin. Previously on Cipro for
   SBP prophylaxis, now on Vanco/Zosyn.
   -continuing current meds.
   #ARF: stable creatinine with good urine output, continuing diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis with lasix and metolazone/spironolactone when
   cleared by s&s, goal 1-2 liters negative per day.
   #Electrolytes:  Sodium remains consistently elevated though slightly
   improved from several days ago, potassium remains very low.
    -continue to replete potassium, mag, phos.
   -continue D5W at increased rate and free water flushes.  Follow lytes
   Q12.
   -increase potassium repletion
 add K to D5W fluids.
   -with spironolactone, expect to increase
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He has remained extubated and is diuresing wel with dry MM. He does
   have issues with anxiety on account of the language barrier. He will
   transition to PO
s today and have a formal S/S evaluation in am [**2187-10-9**].
   Hopefully, aldactone will preclude the need for vigorous K repletion
   too.
   Remainder of plan as outlined above.
   Patient is ill but improving with hopes of transitioning to floor in am
   [**2187-10-9**]
   Total time: 20 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2187-10-8**] 18:35 ------

2187-10-09 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2187-10-9**] 12:44 AM
   -Interview with family present to interpret - patient A/O
   -Speech and swallow consulted but not available to come today, due to
   holidy
   -spironolactone and metolazone given PO, tolerated well.  Patient
   otherwise NPO today.
   -Lasix drip decreased from 10 to 5, maintained good UOP.
   -Fluid balance remained -1 liter over the course of the
   afternoon/evening.
   -PICC line placed successfully in the evening.
   -decreased MAP's after midnight, 1.8 liters negative for the day at
   that point, so Lasix drip (at 5) was turned off.
   -MAP dropped briefly to 49 - given 250 ml bolus NS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-7**] 03:58 PM
   Ciprofloxacin - [**2187-10-8**] 12:00 PM
   Vancomycin - [**2187-10-8**] 09:00 PM
   Piperacillin - [**2187-10-9**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-9**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 77 (61 - 78) bpm
   BP: 134/49(72) {90/36(48) - 140/63(111)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.6 kg (admission): 106 kg
   Height: 65 Inch
    CVP: 8 (1 - 8)mmHg
   Total In:
                                                                  3,407 mL
                                                                    593 mL
   PO:
   TF:
   IVF:
                                                                  3,407 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                  1,200 mL
   Urine:
                                                                  4,865 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,858 mL
                                                                   -607 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///38/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous:
   occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   65 K/uL
   10.7 g/dL
   99 mg/dL
   1.5 mg/dL
   38 mEq/L
   2.6 mEq/L
   28 mg/dL
   98 mEq/L
   146 mEq/L
   34.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2187-10-6**]  04:20 AM
                             [**2187-10-6**]  02:14 PM
                             [**2187-10-7**]  03:03 AM
                             [**2187-10-7**]  03:52 AM
                             [**2187-10-7**]  12:02 PM
                             [**2187-10-7**]  03:05 PM
                             [**2187-10-7**]  11:32 PM
                             [**2187-10-8**]  03:21 AM
                             [**2187-10-8**]  02:51 PM
                             [**2187-10-9**]  03:46 AM
   WBC
   8.5
   8.0
   6.3
   Hct
   32.6
   32.3
   34.0
   Plt
   63
   52
   65
   Cr
   1.4
   1.4
   1.4
   1.5
   1.5
   TCO2
   38
   38
   39
   38
   40
   Glucose
   136
   132
   147
   169
   99
   Other labs: PT / PTT / INR:18.2/36.6/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:18/36, Alk Phos / T Bili:53/3.8,
   Amylase / Lipase:132/183, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Imaging: cxr:There has been interval removal of the endotracheal tube,
   the left
   IJ line tip is still in the SVC, pointed laterally. There continues to
   be
   moderate cardiomegaly with volume loss in both lower lungs. There are
   small
   bilateral pleural effusions left greater than right.
   Microbiology: [**2187-10-5**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2187-10-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2187-10-4**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2187-10-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2187-10-2**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2187-10-1**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, ASPIRATION
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #Respiratory failure: likely [**3-5**] fluid overload originally, but with
   possible pneumonia superimposed.  Now improved after diuresis and
   antibiosis.  Extubated yesterday.
   -continue diuresis with Lasix. After seen by speech and swallow, can
   get  metolazone and spironolactone for added diuretic effect for 1.5
   liters negative goal today
   -started on empiric vanco/Zosyn/cipro, now day 7 of 7 day course, for
   previous new infiltrate read on CXR. Also with fevers/rigors and
   increased secretions several days ago, though improved now.
   - BAL final culture negative.
   #MS: Extubated, alert, much improved.
   -Has been making good stool output.
   -agitated yesterday, pulled out A-line
   -given Zydis for agitation.
   -re-check lipase tomorrow (trending now)
   #Elevated lipase:  on propofol sedation until yesterday, with increase
   in lipase noted.
   -lab value peaked 2 days ago, now decreasing slowly
   -off propofol
   -continue to trend and monitor symptoms, imaging if clinically
   indicated.
    #Possible infection:  Afebrile, leukocytosis resolved for past 2 days
   after 2 day increase.   Respiratory status improved. Continue with
   current management since all cultures negative to date.
   -continue Vanco/Zosyn/cipro
   -BAL culture negative, blood cx negative to date
   -Trend temperature, Tylenol PRN for fevers, with max daily dose < 2
   grams.
    #Anemia, h/o recent GIB: HCT and platelets stable.  Will continue to
   follow given history of recent UGIB.
   -GI recommends repeat banding next week - will follow recs.
   -INR remains stable, no signs of active bleeding.
   -Continue PPI
   #Cirrhosis: Continuing lactulose, rifaxamin. Previously on Cipro for
   SBP prophylaxis, now on Vanco/Zosyn.
   -restart cipro now that d/c-ing vanco/zosyn
   #ARF: stable creatinine with good urine output, continuing diuresis.
   -will continue to monitor creatinine and electrolytes.
   -continue diuresis with lasix and metolazone/spironolactone when
   cleared by s&s, goal 1-2 liters negative per day.
   #Electrolytes:  Sodium remains consistently elevated though slightly
   improved from several days ago, potassium remains very low.
    -continue to replete potassium, mag, phos.
   -continue D5W at increased rate and free water flushes.  Follow lytes
   Q12.
   -increase potassium repletion
 add K to D5W fluids.
   -with spironolactone, expect to increase
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
   PICC Line - [**2187-10-9**] 12:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-10-09 09:32:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Lasix drip turned off --> 1.8L negative
   24 Hour Events:
 PICC LINE - START [**2187-10-9**] 12:44 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-10-7**] 03:58 PM
   Ciprofloxacin - [**2187-10-8**] 12:00 PM
   Vancomycin - [**2187-10-8**] 09:00 PM
   Piperacillin - [**2187-10-9**] 07:47 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-10-9**] 07:48 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-10-9**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 84 (61 - 84) bpm
   BP: 137/90(100) {90/36(48) - 140/90(111)} mmHg
   RR: 36 (19 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.6 kg (admission): 106 kg
   Height: 65 Inch
   CVP: 8 (3 - 8)mmHg
   Total In:
                                                                  3,407 mL
                                                                    808 mL
   PO:
   TF:
   IVF:
                                                                  3,407 mL
                                                                    808 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                  1,840 mL
   Urine:
                                                                  4,865 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,858 mL
                                                                 -1,032 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   65 K/uL
   99 mg/dL
   1.5 mg/dL
   38 mEq/L
   2.6 mEq/L
   28 mg/dL
   98 mEq/L
   146 mEq/L
   34.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2187-10-6**]  04:20 AM
                             [**2187-10-6**]  02:14 PM
                             [**2187-10-7**]  03:03 AM
                             [**2187-10-7**]  03:52 AM
                             [**2187-10-7**]  12:02 PM
                             [**2187-10-7**]  03:05 PM
                             [**2187-10-7**]  11:32 PM
                             [**2187-10-8**]  03:21 AM
                             [**2187-10-8**]  02:51 PM
                             [**2187-10-9**]  03:46 AM
   WBC
   8.5
   8.0
   6.3
   Hct
   32.6
   32.3
   34.0
   Plt
   63
   52
   65
   Cr
   1.4
   1.4
   1.4
   1.5
   1.5
   TCO2
   38
   38
   39
   38
   40
   Glucose
   136
   132
   147
   169
   99
   Other labs: PT / PTT / INR:18.2/36.6/1.6, CK / CKMB /
   Troponin-T:268/5/0.05, ALT / AST:18/36, Alk Phos / T Bili:53/3.8,
   Amylase / Lipase:132/183, Differential-Neuts:84.2 %, Lymph:9.9 %,
   Mono:5.7 %, Eos:0.2 %, Fibrinogen:156 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:215 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   Respiratory Failure post-resusitation for GI Bleed, now extubated
   #Respiratory failure: now extubated.  can d/c vac/cipro/zosyn for VAP.
   #Volume overload: Continues to diurese well.  Lasix drip off. Can give
   prn Lasix - goal 1-1,5L neg
   #Elevated lipase:  trending down
   # GI Bleed: Will get rescoped/banding next week.
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-9-26**] 11:53 AM
 will pull today
   PICC Line - [**2187-10-9**] 12:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: